US07977364B2
1-[(tert-butoxycarbonyl)oxy]-6-methoxy-3-methyl-1H-indazole
Di-tert-butyl-dicarbonate in acetonitrile was mixed at 0° C. with 6-methoxy-3-methyl-1H-indazole (prepared following the procedure described by F. Dennler, Tetrahedron, 22, 1966, 3131-3139) (26.27 g, 0.162 mol), acetonitrile (200 ml), triethylamine (25 ml, 0.178 mol), DMAP (3.96 g, 0.0324 mol). The mixture was stirred at room temperature overnight. Acetonitrile was concentrated under vacuum. The mixture was extracted with ethylacetate and acidified at pH=2 with a solution of concentrated HCl, dried over Na2SO4, filtered and put in diisopropylether. 23.9 g of the expected product were obtained (as solid, 59%).

reactant | Di-tert-butyl-dicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6-methoxy-3-methyl-1H-indazole | COC1=CC=C2C(=NNC2=C1)C | C9H10N2O
reactant | triethylamine | 0.178 mol, 25 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | DMAP | 0.0324 mol, 3.96 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-[(tert-butoxycarbonyl)oxy]-6-methoxy-3-methyl-1H-indazole | 23.9 g | C(C)(C)(C)OC(=O)ON1N=C(C2=CC=C(C=C12)OC)C | C14H18N2O4
